US05521188
G. 4-Methyl-5-nitro-3-(3-hydroxypropyl)indole
To a suspension of 95% LiAlH4 (0.378 g, 9.44 mmol) in 10 mL of dry THF was added a solution of ethyl 4-methyl-5-nitro-3-indolepropionate (0.650 g, 2.36 mmol) in 2 mL of dry THF, at 0° C. under Ar. After 5 min the cooling bath was removed and stirring was continued at room temperature for 30 min. The reaction was then quenched by the sequential addition of 0.4 mL of water, 0.4 mL of 15% aqueous NaOH and finally 1.2 mL of water. The resulting suspension was diluted with ethyl acetate and then it was filtered and the filtercake was washed with additional ethyl acetate. The filtrate was evaporated and the residue was chromatographed (SiO2 /dichloromethane-ethyl acetate, 2:1) to give the title compound (0.458 g, 83%) as a solid. An analytical sample was crystallized from ethyl acetate-hexane to give yellow-orange needles, mp 129°-130° C.: IR (KBr) 3543, 3210, 1616, 1520, 1330 cm- ; 1H NMR (DMSO-d6, 200 MHz) δ 11.43 (br s, 1H), 7.63 (d, J=8.9 Hz, 1H), 7.30 (d, J=8.7 Hz, 1H), 7.29 (s, 1H), 4.51 (t, J=5.2 Hz, 1H), 5.20 (dt, J=6.2, 5.4 Hz, 2H), 2.91 (t, J=7.7 Hz, 2H), 2.78 (s, 3H), 1.78 (m, 2H). Anal. Calcd for C12H14N2O3 : C, 61.52; H, 6.02; N, 11.96. Found: C, 61.23; H, 5.85; N, 11.90.

reactant | LiAlH4 | 9.44 mmol, 0.378 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl 4-methyl-5-nitro-3-indolepropionate | 2.36 mmol, 0.650 g | CC1=C2C(=CNC2=CC=C1[N+](=O)[O-])CCC(=O)OCC | C14H16N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-Methyl-5-nitro-3-(3-hydroxypropyl)indole | 0.458 g, 83% | CC1=C2C(=CNC2=CC=C1[N+](=O)[O-])CCCO | C12H14N2O3
